US07964607B2
(a) 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one
6-[(3S,4S)-1-benzyl-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one (5.6 g) was dissolved in 100 mL of methanol and added to a Parr bottle. Palladium hydroxide (3.76 g) was added along with 3.56 mL of concentrated hydrochloric acid. The reaction mixture was placed on a hydrogenator under 40 psi of H2 for 18 h. The reaction mixture was filtered through Celite and concentrated to provide 4.47 g of the title compound as the hydrogen chloride salt. 400 MHz 1H NMR (CD3OD) δ 8.03 (s, 1H), 4.49 (m, 1H), 4.09-4.06 (m, 2H), 3.74-3.57 (m, 4H), 3.24 (m, 1H), 3.05 (m, 1H), 2.89 (m, 1H), 2.77 (m, 1H), 2.30 (m, 2H), 1.90 (m, 2H), 1.22 (d, J=6.6 Hz, 3H). MS: (M+H m/z=304.2).

reactant | 6-[(3S,4S)-1-benzyl-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 5.6 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H27N5O2
reactant | hydrochloric acid | 3.56 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
catalyst | Palladium hydroxide | 3.76 g | [OH-].[Pd+2].[OH-]
product | 6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 4.47 g | C[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C15H21N5O2
